US05292873
3-Mercaptopropionic acid (0.69 mmol, 65 μL) was dissolved in 8 mL of water and cooled in an ice bath. This solution was added over 20-30 minutes to a solution of 5-methyl-1,4-naphthoquinone (0.69 mmole, 120 mg) dissolved in 15 mL of ethanol and cooled in an ice bath to form a reaction mixture. The reaction mixture was gradually allowed to warm to room temperature over a 1 hour period, and the ethanol was then allowed to evaporate. The crude product was purified via flash silica column chromatography (2:1 hexane:ethyl acetate with 1% v/v acetic acid) and provided a 70% yield of (5-methyl-1,4 naphthoquinonyl thio)- propionic acid, designated compound 1. 1H NMR data: (acetone-ds), δ 2.70 (s, 3H), 2.81 (t, J=7.2 Hz, 2H), 3.20 (t, J=7.2 Hz, 2H), 6.72 (s, 1H), 7.62 (d, J=7.5 Hz, 1H), 7.71 (t, J=7.5 Hz, 1H) 7.96 (d, J=Hz, 1H). LRMS m/z (rel. int.) 276 (M+, 30.5) 203 (100), 115 (68.2), 90 (41.0), 89 (76.4).

reactant | 3-Mercaptopropionic acid | 0.69 mmol, 65 μL | SCCC(=O)O | C3H6O2S
reactant | 5-methyl-1,4-naphthoquinone | 0.69 mmole, 120 mg | CC1=C2C(C=CC(C2=CC=C1)=O)=O | C11H8O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 8 mL | O | H2O
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | (5-methyl-1,4 naphthoquinonyl thio)- propionic acid | 70% yield | CC1=C2C(C=C(C(C2=CC=C1)=O)SC(C(=O)O)C)=O | C14H12O4S
